US08053457B2
(4-Benzyl-2-methyl-piperazin-1-yl)-acetonitrile
The title compound is synthesized by coupling of 4-Benzyl-2-methyl-piperazine (commercially available from CHESS GmbH) and bromoacetonitrile analogously to the preparation of Intermediate 149.2 as a colorless oil; ES-MS: M+=230.2: AtRet=1.86.

reactant | 4-Benzyl-2-methyl-piperazine | C(C1=CC=CC=C1)N1CC(NCC1)C | C12H18N2
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | (4-Benzyl-2-methyl-piperazin-1-yl)-acetonitrile | C(C1=CC=CC=C1)N1CC(N(CC1)CC#N)C | C14H19N3
